US05206235
Step B: 4'-Methyl-2-phenyl-1,1'-biphenyl
Prepared from 2-bromobiphenyl and 4-methylphenyltrimethylstannane by the procedure described in Example 69, Step B.

reactant | 2-bromobiphenyl | BrC1=C(C=CC=C1)C1=CC=CC=C1 | C12H9Br
reactant | 4-methylphenyltrimethylstannane | CC1=CC=C(C=C1)[Sn](C)(C)C
product | 4'-Methyl-2-phenyl-1,1'-biphenyl | CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=CC=CC=C1 | C19H16
